.SUBCKT 2N6028 1 2 3
**************************************
*      Model Generated by CZ LAB     *
*           April 20, 2001           *
*   Copyright(c) On Semiconductor    *
*         All Rights Reserved        *
*Commercial Use or Resale Restricted *
**************************************
*Programable Unijunction Transistor
*MODEL FORMAT: PSpice
*       anode  gate  cathode
*node:    1      2      3
Q1 2 4 3 NMOD
Q2 4 2 1 PMOD
.MODEL NMOD NPN(IS=2E-15 VAF=100 IKF=0.3 ISE=2.5E-12
+ NE=1.6 RE=0.15 RC=0.15 CJE=7E-10 TF=0.6E-8
+ CJC=2.2E-10 TR=4.76E-8 XTB=3)
.MODEL PMOD PNP(IS=22E-15 VAF=100 IKF=0.3 ISE=1E-12
+ NE=1.7 RE=0.15 RC=0.15 CJE=7E-10 TF=1.6E-8
+ CJC=2.2E-10 TR=5.1E-8 XTB=3)
.ENDS